US07935830B2
Step B. N-Ethylcarbamate-5-cyclopropylmethoxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
(Bromomethyl)cyclopropane (13 mg, 0.09 mmol) and K2CO3 (24 mg, 0.17 mmol) were added to a solution of N-ethylcarbamate-5-hydroxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (23 mg, 0.09 mmol) in CH3CN, and stirred overnight at 80° C. The reaction mixture was diluted with H2O and CH2Cl2, and filtered through an Extrelut column. The column was washed with CH2Cl2, and the filtrate was concentrated. The subtitle compound was obtained without further purification. MS calculated for C19H25NO3+H: 316, observed: 316.

reactant | (Bromomethyl)cyclopropane | 0.09 mmol, 13 mg | BrCC1CC1 | C4H7Br
reactant | K2CO3 | 0.17 mmol, 24 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N-ethylcarbamate 5-hydroxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 0.09 mmol, 23 mg | C(C)NC([O-])=O.OC=1C=CC=2C(C3C(CNC3)C2C1)C
solvent | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Ethylcarbamate 5-cyclopropylmethoxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C)NC([O-])=O.C1(CC1)COC=1C=CC=2C(C3C(CNC3)C2C1)C | InChI=1S/C16H21NO.C3H7NO2/c1-10-13-5-4-12(18-9-11-2-3-11)6-14(13)16-8-17-7-15(10)16;1-2-4-3(5)6/h4-6,10-11,15-17H,2-3,7-9H2,1H3;4H,2H2,1H3,(H,5,6)/p-1
